US04523030
3.37 g of 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid are suspended in 100 ml of toluene; 0.1 ml of dimethylformamide and 1.64 g of thionyl chloride are added and the whole is heated to 80°, stirred for 2 hours at 80°-90° and concentrated to dryness by evaporation under reduced pressure. 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid chloride is obtained which can be used without being further treated.

reactant | 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid | 3.37 g | ClC1=C(C(=O)C2=CC3=C(C(=C3)C(=O)O)C=C2O)C(=CC=C1)Cl | C16H8Cl2O4
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.64 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid chloride | ClC1=C(C(=O)C2=CC3=C(C(=C3)C(=O)Cl)C=C2O)C(=CC=C1)Cl | C16H7Cl3O3
